US05296495
To a cooled solution of 4-tert-butyl-2-(5-methoxybenzofuran-2-yl)thiazole (1.0 g) in dichloromethane (10 ml), 1M solution of boron tribromide in dichloromethane (7 ml) was added dropwise at 5° C. After being stirred for 3 hours, the resulting solution was poured into a mixture of ice and aqueous sodium hydrogen carbonate. The resulting precipitates were collected by filtration and dissolved in a mixture of tetrahydrofuran and water. The solution was concentrated to give crystals of 4-tert-butyl-2-(5-hydroxybenzofuran-2-yl)thiazole (0.91 g).

reactant | 4-tert-butyl-2-(5-methoxybenzofuran-2-yl)thiazole | 1.0 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OC | C16H17NO2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-tert-butyl-2-(5-hydroxybenzofuran-2-yl)thiazole | 0.91 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)O | C15H15NO2S
